US04986846
5.2 g of 2-(4,6-dimethoxy-2-pyrimidinyloxy)benzaldehyde and 3.8 g of 2,4-dichlorobenzyloxyamine were dissolved in 100 ml of methanol and the solution was stirred at room temperature for 2 hours. After the methanol was distilled out under reduced pressure, the resulting residue was recrystallized from isopropyl ether to obtain 8.1 g of O-(2,4-dichlorobenzyl)-2-(4,6-dimethoxy-2-pyrimidinyloxy)benzaldoxime.

reactant | 2-(4,6-dimethoxy-2-pyrimidinyloxy)benzaldehyde | 5.2 g | COC1=NC(=NC(=C1)OC)OC1=C(C=O)C=CC=C1 | C13H12N2O4
reactant | 2,4-dichlorobenzyloxyamine | 3.8 g | ClC1=C(CON)C=CC(=C1)Cl | C7H7Cl2NO
solvent | methanol | 100 ml | CO | CH4O
product | O-(2,4-dichlorobenzyl)-2-(4,6-dimethoxy-2-pyrimidinyloxy)benzaldoxime | 8.1 g | ClC1=C(CON=CC2=C(C=CC=C2)OC2=NC(=CC(=N2)OC)OC)C=CC(=C1)Cl | C20H17Cl2N3O4
